US07902252B2
2.103. Synthesis of 4-(3-(tetrahydrofuran-3-yl)benzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (90)
The title compound was synthesized from methyl 4-(3-(tetrahydrofuran-2-yl)benzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.028 g, 0.086 mmol) and lithium hydroxide (0.036 g, 0.86 mmol in 0.75 mL water), according to General Procedure 7. THF (0.75 mL) was used to solubilize the starting material. The resulting product was purified by reverse phase HPLC, eluting with a gradient of 40-100% MeOH: water (with 0.1% formic acid) to afford the title compound: 11 mg, 41% yield. 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.71-1.83 (m, 1H), 1.96-2.06 (m, 2H), 2.07-2.14 (m, 1H), 2.27-2.36 (m, 1H), 2.49-2.63 (m, 3H), 2.69-2.83 (m, 2H), 3.21-3.28 (m, 1H), 3.87-3.93 (q, 1H), 4.04-4.09 (q, 1H), 4.82-4.83 (m, 1H), 6.26-6.36 (d, 1H), 7.09-7.11 (m, 2H), 7.14-7.18 (m, 1H), 7.21-7.26 (m, 1H); LCMS-MS (ESI−) 310.2 (M−H); HPLC (UV=98.99%).

reactant | methyl 4-(3-(tetrahydrofuran-2-yl)benzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.086 mmol, 0.028 g | O1C(CCC1)C=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1 | C20H23NO3
reactant | lithium hydroxide | 0.86 mmol, 0.75 mL, 0.036 g | [OH-].[Li+]
reactant | THF | 0.75 mL | C1CCOC1 | C4H8O
product | 4-(3-(tetrahydrofuran-3-yl)benzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | O1CC(CC1)C=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1 | C19H21NO3
